US04921855
A solution of di-t-butyldicarbonate (137.5 g) in methylene chloride (1 () was added dropwise to a solution of N-isobutyrylethylenediamine (82.02 g) in methylene chloride (1 () under ice-bath cooling. After the mixture was stirred for 3 hours at ambient temperature, the solvent was evaporated under reduced pressure. The residue was recrystallized from n-hexane-ethyl acetate (2:1, V/V, 1.6 () to give N-t-butoxycarbonyl-N'-isobutyrylethylenediamine (117.6 g).

reactant | di-t-butyldicarbonate | 137.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-isobutyrylethylenediamine | 82.02 g | C(C(C)C)(=O)NCCN | C6H14N2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-N'-isobutyrylethylenediamine | 117.6 g | C(C)(C)(C)OC(=O)NCCNC(C(C)C)=O | C11H22N2O3
